US04900752
7,8-dihydro-6,6-dimethyl-7-hydroxy-8-pivaloylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole
To a mixture of 200 mg (0.85 m mol) of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole, 130 μl (0.935 m mol) of triethylamine and 20 ml of methylene chloride were added 115 μl (0.935 m mol) of pivaloyl chloride (trimethylacetyl chloride) with stirring at the room temperature, followed by further stirring for 3.5 hours. After the completion of the reaction, the mixture solution was washed thrice with water and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was recrystallized from ethanol to obtain the pure intended compound. (yield: 191 mg, yield: 70%).

reactant | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 200 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N)O)C | C11H13N3O3
reactant | triethylamine | 130 μl | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 115 μl | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-pivaloylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | yield: 70% | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)NC(C(C)(C)C)=O)O)C | C16H21N3O4
